US05318966
5.0 g (13.0 mmol) of rac-cis-1-[4-(6-hydroxy-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]indol-3-yl)-butyl]-4,4-dimethyl-piperidine-2,6-dione were dissolved in 250 ml of toluene. The solution was treated with 2.76 g (3.8 ml, 27 mmol) of triethyl-amine and 1.68 g (1.43 ml, 16 mmol) of dimethylcarbamoyl chloride and 250 mg of 4-dimethylaminopyridine and stirred under an argon atmosphere overnight in an oil bath at an oil bath temperature of 110°. After cooling the organic phase was washed in succession with water, sodium bicarbonate solution and water, dried over magnesium sulphate and evaporated. The resulting brown oil (6.5 g) was chromatographed over a 30-fold amount of silica gel. The uniform eluates obtained in a thin-layer chromatogram using methylene chloride/ethyl acetate 1:1 were pooled and evaporated. The yellow oily base obtained (4.0 g) was converted into the hydrochloride in the usual manner, whereby there were obtained 4.0 g (62%) of rac-cis-3 -[4-(4,4-dimethyl-2,6-dioxo-piperidin-1-yl)-butyl]-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]indol-6-yl dimethylcarbamate hydrochloride as yellowish crystals of m.p. 190°-192° (dec.).

reactant | rac-cis-1-[4-(6-hydroxy-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]indol-3-yl)-butyl]-4,4-dimethyl-piperidine-2,6-dione | 13.0 mmol, 5.0 g | OC1=CC=CC=2[C@H]3CCN([C@H]3CCC21)CCCCN2C(CC(CC2=O)(C)C)=O | C23H32N2O3
reactant | triethyl-amine | 27 mmol, 3.8 ml, 2.76 g | C(C)N(CC)CC | C6H15N
reactant | dimethylcarbamoyl chloride | 16 mmol, 1.43 ml, 1.68 g | CN(C(=O)Cl)C | C3H6ClNO
reactant | hydrochloride | Cl | ClH
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
catalyst | 4-dimethylaminopyridine | 250 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride ethyl acetate | C(Cl)Cl.C(C)(=O)OCC
product | rac-cis-3 -[4-(4,4-dimethyl-2,6-dioxo-piperidin-1-yl)-butyl]-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]indol-6-yl dimethylcarbamate hydrochloride | 4.0 g, 62% | Cl.CN(C(OC1=CC=CC=2[C@H]3CCN([C@H]3CCC21)CCCCN2C(CC(CC2=O)(C)C)=O)=O)C | InChI=1S/C26H37N3O4.ClH/c1-26(2)16-23(30)29(24(31)17-26)14-6-5-13-28-15-12-19-18-8-7-9-22(33-25(32)27(3)4)20(18)10-11-21(19)28;/h7-9,19,21H,5-6,10-17H2,1-4H3;1H/t19-,21+;/m1./s1
